US05041453
2.0 g of ethyl-3-(2,3-dihydro-6-hydroxy-2-methyl-benzoxazol-2-yl)propanoate, 3.1 g of 2-(3-chloromethylphenoxy)methylquinoline and 1.2 g potassium carbonate are combined in 25 ml of dimethylformamide and stirred at room temperature overnight, then at 60° C. for 4 hours. The reaction mixture is diluted with ethyl acetate and this solution washed with water, dried and concentrated. The residue is chromatographed on silica gel to give ethyl-3-(6-(3-(quinolin-2-ylmethyloxy)benzyloxy)-2,3-dihydro -2-methylbenzoxazol-2-yl)propanoate which is used, without further purification, for the next step.

reactant | ethyl-3-(2,3-dihydro-6-hydroxy-2-methyl-benzoxazol-2-yl)propanoate | 2.0 g | C(C)OC(CCC1(OC2=C(N1)C=CC(=C2)O)C)=O | C13H17NO4
reactant | 2-(3-chloromethylphenoxy)methylquinoline | 3.1 g | ClCC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C17H14ClNO
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl-3-(6-(3-(quinolin-2-ylmethyloxy)benzyloxy)-2,3-dihydro -2-methylbenzoxazol-2-yl)propanoate | C(C)OC(CCC1(OC2=C(N1)C=CC(=C2)OCC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2)C)=O | C30H30N2O5
